US07504408B2
3-(6-chloro-7-{[6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-yl]amino}-1,3-benzodioxol-4-yl)prop-2-yn-1-ol
A solution of N-(5-chloro-7-iodo-1,3-benzodioxol-4-yl)-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine (0.35 g, 0.59 mmol) propargyl alcohol (0.075 ml, 1.3 mmol) and diisopropylamine (0.18 ml, 1.3 mmol) in ethyl acetate (10 ml) was cooled to −20 C under a nitrogen atmosphere. To this was added copper (I) iodide (0.034 g, 0.12 mmol) and bis(triphenylphospine)palladium (II) chloride (0.082 g, 0.17 mmol). The reaction was allowed to warm to ambient temperature and then stirred overnight. The reaction was filtered through Celite and the filtrate was then evaporated under reduced pressure. The residue was purified by flash chromatography on silica eluting with a mixture of 0-10% methanol in dichloromethane to give the product as a solid (0.16 g, 51%). NMR Spectrum: (DMSOd6) 1.95 (m, 2H), 2.5 (s(broad), 4H), 2.61 (t, 2H), 3.61 (t, 4H), 3.92 (s, 3H), 4.21 (t, 2H), 4.37 (s, 2H), 5.02 (s(broad), 1H), 6.06 (s, 2H), 7.07 (s, 1H), 7.17 (s, 1H), 7.83 (s, 1H), 8.25 (s(broad), 1H), 9.18 (s(broad), 1H). Mass Spectrum: M+H+ 527 and M+H− 525.

reactant | N-(5-chloro-7-iodo-1,3-benzodioxol-4-yl)-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine | 0.59 mmol, 0.075 ml, 0.35 g | ClC1=C(C2=C(OCO2)C(=C1)I)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C23H24ClIN4O5
reactant | diisopropylamine | 1.3 mmol, 0.18 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.12 mmol, 0.034 g | [Cu]I
catalyst | bis(triphenylphospine)palladium (II) chloride | 0.17 mmol, 0.082 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 3-(6-chloro-7-{[6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-yl]amino}-1,3-benzodioxol-4-yl)prop-2-yn-1-ol | 0.16 g, 51% | ClC=1C=C(C2=C(OCO2)C1NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)C#CCO | C26H27ClN4O6
